US08426422B2
3-isopropylpiperazin-2-one
Ethyl 2-bromo-3-methylbutanoate (2.2 g, 10.52 mmol) in ethanol (15 mL) was added dropwise over a period of 2.5 hours to a stirred refluxing solution of ethane-1,2-diamine (13.2 mL, 197 mmol) in ethanol (60 mL). The mixture was heated for another 2.5 hours, and sodium ethoxide in ethanol (21% by wt) (4.0 mL, 10.80 mmol) was added and the mixture was heated for another 90 minutes. The reaction was then cooled and concentrated. After trituration with ether, the title compound was used in the next step without further purification.

reactant | Ethyl 2-bromo-3-methylbutanoate | 10.52 mmol, 2.2 g | BrC(C(=O)OCC)C(C)C | C7H13BrO2
reactant | ethane-1,2-diamine | 197 mmol, 13.2 mL | C(CN)N | C2H8N2
reactant | sodium ethoxide | [O-]CC.[Na+]
solvent | ethanol | 15 mL | C(C)O | C2H6O
solvent | ethanol | 60 mL | C(C)O | C2H6O
solvent | ethanol | 10.80 mmol, 4.0 mL | C(C)O | C2H6O
product | 3-isopropylpiperazin-2-one | C(C)(C)C1C(NCCN1)=O | C7H14N2O
